### ISSUE TITLE
`Array.anyM` has incorrect specification

### ISSUE THREAD

**Issue by gebner** [leanprover/lean4#1921]
```lean
@[simp] theorem Array.size_singleton : #[a].size = 1 := rfl
@[simp] theorem USize.not_size_le_one : ¬ USize.size ≤ 1 := by cases usize_size_eq <;> simp_all

def f := #[true].any id 0 USize.size
example : f = false := by native_decide
example : f = true := by simp [f, Array.any, Array.anyM]
```

**Comment by digama0** [comment]
The issue is not about usize wrapping, but rather that one of the cases in the implementation is wrong (IMO). It should read:

```diff
 unsafe def anyMUnsafe {α : Type u} {m : Type → Type w} [Monad m] (p : α → m Bool) (as : Array α) (start := 0) (stop := as.size) : m Bool :=
   let rec @[specialize] any (i : USize) (stop : USize) : m Bool := do
     if i == stop then
       pure false
     else
       if (← p (as.uget i lcProof)) then
         pure true
       else
         any (i+1) stop
   if start < stop then
-    if stop ≤ as.size then
-      any (USize.ofNat start) (USize.ofNat stop)
-    else
-      pure false
+    any (USize.ofNat start) (USize.ofNat (min stop as.size))
   else
     pure false
```

**Comment by digama0** [comment]
No, the min there is over Nat, so the value being passed to `ofNat` must be less or equal to `as.size` which is necessarily a USize in the runtime.

**Comment by gebner** [comment]
That part is true, but `USize.ofNat start` can wrap!

**Comment by digama0** [comment]
But we also checked that start < stop before it, so start is also less than `as.size`.

**Comment by digama0** [comment]
Oh wait, you are right, we need to compare start to `min stop as.size` to conclude that.
